US04704388
Step 1. N-Carbomethoxy-N-cyclohexylsulfamyl-O-methylisourea
Triethylamine (112 g) is added to a stirred solution of N-carbomethoxy-O-methylisourea (132.1 g) in anhydrous THF (900 ml). The solution is cooled to -70° C. under an N2 atmosphere and solution of cyclohexylsulfamoyl chloride (198 g) in anhydrous THF (400 ml) is added dropwise to the reaction mixture. The reaction mixture is warmed to RT filtered through Celite®, washed with anhydrous THF and evaporated to yield an oil which is taken up in methylene chloride, washed with 0.5N HCl and allowed to stand overnight. The organic layer is washed with 0.5N HCl, dried, filtered, washed with methylene chloride, evaporated and dried under high vacuum affording the desired product as an oil which is used in the next step without further purification.

reactant | Triethylamine | 112 g | C(C)N(CC)CC | C6H15N
reactant | N-carbomethoxy-O-methylisourea | 132.1 g | C(=O)(OC)NC(OC)=N | C4H8N2O3
reactant | cyclohexylsulfamoyl chloride | 198 g | C1(CCCCC1)NS(=O)(=O)Cl | C6H12ClNO2S
solvent | THF | 900 ml | C1CCOC1 | C4H8O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-Carbomethoxy-N-cyclohexylsulfamyl-O-methylisourea | C(=O)(OC)N(C(OC)=N)S(NC1CCCCC1)(=O)=O | C10H19N3O5S
